US06713474B2
3-Pyridylmethyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (12 mg, 0.025 mmol) was dissolved in ethyl acetate (2.0 mL). 1.0N HCl in ether (1 mL) was added slowly. The precipatate was collected through filtration under nitrogen to give 3-pyridylmethyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate hydrochloride(13 mg, 0.25 mmol). 1H NMR (DMSO-d6) δ 1.91 (m, 2H), 2.17 (m, 2H), 3.54 (m, 2H), 3.87 (s, 3H), 4.03 (m, 2H), 4.97 (m, 1H), 5.23 (s, 2H), 7.05 (d, J=8.2 Hz, 1H), 7.13 (s, 1H), 7.51 (m, 1H), 7.81 (d, J=8.2 Hz, 1H), 7.84 (s, 1H), 7.95 (m, 1H), 8.42 (s, 1H), 8.60 (s, 1H), 8.71 (s, 1H), 8.82 (s, 1H). LC/MS MH+=475.

reactant | 3-Pyridylmethyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.025 mmol, 12 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OCC=2C=NC=CC2)=O)OC)C2CCOCC2 | C25H26N6O4
reactant | HCl | 1.0N | Cl | ClH
solvent | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | 1 mL | CCOCC | C4H10O
product | 3-pyridylmethyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate hydrochloride | 0.25 mmol, 13 mg | Cl.NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OCC=2C=NC=CC2)=O)OC)C2CCOCC2 | InChI=1S/C25H26N6O4.ClH/c1-33-21-11-17(4-5-20(21)30-25(32)35-14-16-3-2-8-27-12-16)19-13-31(18-6-9-34-10-7-18)24-22(19)23(26)28-15-29-24;/h2-5,8,11-13,15,18H,6-7,9-10,14H2,1H3,(H,30,32)(H2,26,28,29);1H
